US07772246B2
A Mixture of the [3-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-4-(2-methanesulfonyl-pyrimidin-4-yl)-pyrazol-1-yl]-acetonitrile (C-1-5) (310 mg, 0.6 mmol) and (S)-(+)-1-amino-2-propanol (134 mg, 1.8 mmol) in THF (5 mL) was heated at 80° C. for 18 hr. The mixture was concentrated onto silica gel then purified on silica gel using a gradient of 0-6% methanol in a mixture of dichloromethane and ethyl acetate (1:1) as eluent to yield 220 mg (72%) of {3-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-4-[2-((S)-2-hydroxy-propylamino)-pyrimidin-4-yl]-pyrazol-1-yl}-acetonitrile (C-1-6) as a foam from methyl tert-butyl ether. 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 8.52 (d, J=2.02 Hz, 1H), 8.20 (s, 1H), 8.07-8.17 (m, 4H), 7.81 (d, J=4.04 Hz, 1H), 7.63-7.73 (m, 1H), 7.52-7.60 (m, 2H), 6.75 (d, J=4.04 Hz, 1H), 6.53 (br. s., 1H), 5.67 (br. t, J=4.93 Hz, 1H), 5.24 (s, 2H), 3.56 (br. s., 1H), 2.64-3.28 (br. m, 3H), 0.74 (br. s., 3H).

reactant | [3-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-4-(2-methanesulfonyl-pyrimidin-4-yl)-pyrazol-1-yl]-acetonitrile | 0.6 mmol, 310 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C2=NN(C=C2C2=NC(=NC=C2)S(=O)(=O)C)CC#N | C23H17N7O4S2
reactant | (S)-(+)-1-amino-2-propanol | 1.8 mmol, 134 mg | NC[C@H](C)O | C3H9NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {3-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-4-[2-((S)-2-hydroxy-propylamino)-pyrimidin-4-yl]-pyrazol-1-yl}-acetonitrile | 220 mg, 72% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C2=NN(C=C2C2=NC(=NC=C2)NC[C@H](C)O)CC#N | C25H22N8O3S
